* C:\Users\dakar\Desktop\Work\DYPLOM\VLC-OWC-RF-system-for-IoT\LTSpice\2026_05_20\Odbiornik_WO_TLV3501.asc
* Generated by LTspice 26.0.0 for Windows.
R1 PHOTO U5 1G
C1 PHOTO U5 20p
I1 U5 PHOTO PULSE(0u 3u 0 10n 10n 2500n 5u)
V1 U5 0 5
V2 U25 0 2.5
R2 TIA_1_OUT PHOTO 25k
C2 TIA_1_OUT PHOTO 5p
R3 TIA_1_OUT N004 1Meg
C3 U25 N001 2.2m
R4 N001 PHOTO 4.7k
I2 U5 PHOTO SINE(60u 30u 5)
C4 HPF_OUT N007 100n
R5 HPF_OUT U25 1k
R6 TIA2_OUT N008 50k
R7 N008 U25 10k
X§U1 HPF_OUT N008 U5 0 TIA2_OUT MCP6021 ;§pnba In+)In-)V+)V-)OUT
X§U3 U25 PHOTO U5 0 TIA_1_OUT MCP6021 ;§pnba In+)In-)V+)V-)OUT
X§U4 N004 U25 U5 0 N001 MCP6021 ;§pnba In+)In-)V+)V-)OUT
C5 N007 N006 100n
R8 N007 U25 1k
I3 U5 PHOTO SINE(10u 10u 100)
C6 N006 TIA_1_OUT 100n
R9 N006 U25 1k
R12 U25 N001 1Meg
C9 N005 0 100n
C10 N005 0 10µ
C7 N003 0 100n
C8 N003 0 10µ
C11 N002 0 100n
C12 N002 0 10µ
C15 N009 0 100n
C16 N009 0 10µ
X§U5 NC_01 NC_02 U5 0 NC_03 MCP6021 ;§pnba In+)In-)V+)V-)OUT
R13 U5 N009 47
R14 U5 N005 47
R16 U5 N002 47
R17 U5 N003 47
.tran 0 200m 20m
.include MCP6021.txt
.options method=gear
.options cshunt=1p vntol=1m abstol=1n reltol=0.01 ptrantau=1u
* 100 kHz = 1k OK for HPF
* PHOTODIODE
* Emitted Sun + 100 Hz Lamp + Data Signal
* TIA 1
* Integrator
* High Pass Filter of 3rd Order
* TIA 2
* 100 Meg for Leak Integrator. Need to test on bare metal. Ideally without R12. Then with
* 10u or more OR CAPACITOR near VCC near OP and COMP
.backanno
.end
